US05962457
Methyl 3-acetamidothiophene-4-carboxylate (10.0 g, 50.25 mmol) was added to a 5% methanolic potassium hydroxide solution (100 mL). The mixture was refluxed 2 hours, cooled, and concentrated. The residue was dissolved in water and the acidity was adjusted to pH 1 by addition of 1 N hydrochloric acid (HCl). The precipitate was collected, washed with water, and air dried to afford 8.66 g (93%) of 3-acetamidothiophene-4-carboxylic acid.

reactant | Methyl 3-acetamidothiophene-4-carboxylate | 50.25 mmol, 10.0 g | C(C)(=O)NC1=CSC=C1C(=O)OC | C8H9NO3S
solvent | potassium hydroxide | 100 mL | [OH-].[K+]
product | 3-acetamidothiophene-4-carboxylic acid | 8.66 g, 93% | C(C)(=O)NC1=CSC=C1C(=O)O | C7H7NO3S
